US07622583B2
To a stirred solution of 2-bromo-5-chloro-pyridin-3-ylamine (4.12 g, 20 mmol) in anhydrous pyridine (100 mL) was added 3-methyl-4-chlorobenzenesulfonyl chloride (6.35 g, 26 mmol) and the progress of the reaction was followed by LCMS. The reaction mixture was stirred overnight (18 h), then concentrated to remove as much of the pyridine as possible. The residue was dissolved in THF and was stirred 18h with aqueous sodium hydroxide (20 mL) in THF to cleave the bis-sulfonamide. The reaction mixture was subsequently neutralized with aqueous HCl and extracted with EtOAc; the organic phase was washed with water (2×100 mL), brine, and then dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel using EtOAc-hexane to provide N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-methyl-benzenesulfonamide as a white crystalline solid. MS m/z 397.1 (M+H).

reactant | 2-bromo-5-chloro-pyridin-3-ylamine | 20 mmol, 4.12 g | BrC1=NC=C(C=C1N)Cl | C5H4BrClN2
reactant | 3-methyl-4-chlorobenzenesulfonyl chloride | 26 mmol, 6.35 g | CC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C7H6Cl2O2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-methyl-benzenesulfonamide | BrC1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C)Cl | C12H9BrCl2N2O2S
